US05629325
35a. Quinoline-3-boronic acid
3-Bromoquinoline (0.4 mL, 3 mmol) was dissolved in THF, and the solution was cooled to -78° C. To this solution was added t-butyllithium (4.1 mL, 7 mmol), and the reaction mixture was stirred for 20 minutes. Trimethyl borate (0.81 mL, 7.1 mmol) was added at -78° C., and the mixture was stirred and allowed to warm to room temperature. The reaction was quenched with water, and the solvents were removed under vacuum. The residue 180 mg was taken directly to the next step.

reactant | 3-Bromoquinoline | 3 mmol, 0.4 mL | BrC=1C=NC2=CC=CC=C2C1 | C9H6BrN
reactant | t-butyllithium | 7 mmol, 4.1 mL | C(C)(C)(C)[Li]
reactant | Trimethyl borate | 7.1 mmol, 0.81 mL | B(OC)(OC)OC | C3H9BO3
solvent | THF | C1CCOC1 | C4H8O
product | Quinoline-3-boronic acid | N1=CC(=CC2=CC=CC=C12)B(O)O | C9H8BNO2
